US07271191B2
A solution of iPr2NH (11.2 mL, 80 mmol) in THF (100 mL) was cooled in an ice/salt bath and nBuLi (80 mmol) in hexanes (1.6M, 50 mL) was added dropwise. The solution was stirred for 1 h, then cooled to −78° C. A solution of 3-iodoacetophenone (19.7 g, 80 mmol) in THF (30 mL) was added dropwise and stirred for 1 h at −78° C., then a solution of methyl 4-fluorophenylacetate (13.4 g, 80 mmol) in THF (30 mL) was added. The mixture was stirred for 24 h while warming to RT. Acetic acid (9 mL) and EtOH (100 mL) were added, followed by MeNHNH2 (4.2 mL, 80 mmol). The mixture was heated to 60° C. for 1 h and, after cooling, the solvent was removed under reduced pressure. The residue was partitioned between CH2Cl2 and H2O, the CH2Cl2 layer was separated and retained and the aqueous layer re-extracted with CH2Cl2. The combined organic extracts were washed with brine, dried (MgSO4), and evaporated. The residue was purified by silica chromatography eluting with 50-80% CH2Cl2/iso-hexane to yield 3-(4-fluorobenzyl)-5-(3-iodophenyl)-1-methyl-1H-pyrazole, as the second of two pyrazole isomers, as a brown oil (4.5 g, 15%). 1H NMR (CDCl3, 500 MHz) δ 7.72 (1H, s), 7.69 (1H, d, J=8.0 Hz), 7.31 (1H, d, J=8.0 Hz), 7.26-7.20 (2H, m), 7.13 (1H, t, J=8.0 Hz), 6.96 (2H, t, J=8.8 Hz), 6.01 (1H, s), 3.93 (2H, s), 3.81 (3H, s). MS (ES+) C17H14FIN2 requires: 392, found: 393 (M+H+).

reactant | iPr2NH | 80 mmol, 11.2 mL | N(C(C)C)C(C)C | C6H15N
reactant | nBuLi | 80 mmol | [Li]CCCC
reactant | 3-iodoacetophenone | 80 mmol, 19.7 g | CC(=O)C1=CC(=CC=C1)I | C8H7IO
reactant | methyl 4-fluorophenylacetate | 80 mmol, 13.4 g | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
reactant | MeNHNH2 | 80 mmol, 4.2 mL | CNN | CH6N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | Acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 3-(4-fluorobenzyl)-5-(3-iodophenyl)-1-methyl-1H-pyrazole | FC1=CC=C(CC2=NN(C(=C2)C2=CC(=CC=C2)I)C)C=C1 | C17H14FIN2
